US08067445B2
Step 1: [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 36, Step 7, using the following starting materials: [2′-(3-benzyl-1-ethyl-ureidomethyl)-6-hydroxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester and N-phenyl-bis(trifluoromethanesulfonimide).

reactant | [2′-(3-benzyl-1-ethyl-ureidomethyl)-6-hydroxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)O)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C28H29F3N2O4
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OS(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C29H28F6N2O6S
